US07528250B2
7-Benzenesulfonyl-4-chloro-chroman (512 mg, 1.65 mmol), Boc-piperazine (piperazine-1-carboxylic acid tert-butyl ester, 371 mg, 1.92 mmol), sodium iodide (50 mg) and potassium carbonate (275 mg) were added to 5 mL of DMF, and the reaction mixture was heated to 70° C. overnight. The reaction mixture was cooled and partitioned between ethyl acetate and water, and the combined organic layers were dried over MgSO4. Solvent was removed under reduced pressure, and the residue was chromatographed (silica gel, using 30% ethyl acetate in hexanes) to yield 400 mg of 4-(7-Benzenesulfonyl-chroman-4-yl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 7-Benzenesulfonyl-4-chloro-chroman | 1.65 mmol, 512 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)Cl | C15H13ClO3S
reactant | Boc-piperazine | 1.92 mmol, 371 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium iodide | 50 mg | [I-].[Na+]
reactant | potassium carbonate | 275 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(7-Benzenesulfonyl-chroman-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCOC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C24H30N2O5S
